US08492414B2
5-(4-Chloro-2-methoxyphenyl)-1,3,4-oxathiazol-2-one (IV)
To a solution of 4-chloro-2-methoxybenzamide (0.82 g, 4.42 mmol) in toluene (20 ml) was added chlorocarbonylsulfenyl chloride (0.73 ml, 8.84 mmol) under nitrogen atmosphere and the resulting reaction mixture was refluxed at 90° C. for 2 h. After the completion of the reaction (TLC monitoring) water was added followed by extraction with ether (3×50 ml). The combined organics was then sequentially washed with water, 10% NaHCO3 (aqueous solution) and finally again with water. The organic layer was then dried over anhydrous Na2SO4, filtered and concentrated to get desired product (1.03 g, 96% crude yield) that was carried forward as such without further purification. MS: 244.16 (M+H)+.

reactant | 4-chloro-2-methoxybenzamide | 4.42 mmol, 0.82 g | ClC1=CC(=C(C(=O)N)C=C1)OC | C8H8ClNO2
reactant | chlorocarbonylsulfenyl chloride | 8.84 mmol, 0.73 ml | ClC(=O)SCl | CCl2OS
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Chloro-2-methoxyphenyl)-1,3,4-oxathiazol-2-one | 1.03 g | ClC1=CC(=C(C=C1)C1=NSC(O1)=O)OC | C9H6ClNO3S
